US03932392
Concentration in vacuo or at atmospheric pressure of the mother liquors leaves a post residue consisting of essentially dicyclohexylamine hydrochloride, water and unreacted or decomposed cephalosporin C by-products. Basification of the pH to about 9 with sodium hydroxide, followed by physical separation of the two layers produces essentially pure dicyclohexylamine in about 85-95% recofery of theory.

reactant | dicyclohexylamine hydrochloride | Cl.C1(CCCCC1)NC1CCCCC1
reactant | cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
solvent | water | O | H2O
product | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
